US09403798B2
1-(4-Chloro-3-hydroxybenzyl)-4-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one
To a dichloromethane solution (1.0 mL) of 1-(4-chloro-3-methoxybenzyl)-4-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one (10.0 mg, 0.0232 mmol) synthesized in Synthesis Example 141, 1M boron tribromide (1.00 mL, 1.00 mmol) was added at −78° C. and while elevating gradually the temperature of the resultant mixture to room temperature, the mixture was stirred for 3 hours. After the completion of the reaction, to the reaction solution, water was added and extraction with ethyl acetate from the reaction solution was performed. The organic layer was dried and was concentrated under reduced pressure and the resultant solid was washed with ethyl acetate to obtain the title compound (6.00 mg, yield: 62%).

reactant | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
reactant | 1-(4-chloro-3-methoxybenzyl)-4-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one | 0.0232 mmol, 10.0 mg | ClC1=C(C=C(CN2C(N=C(N=C2)N2CCN(CC2)C2=CC=C(C=C2)F)=O)C=C1)OC | C21H21ClFN5O2
reactant | boron tribromide | 1.00 mmol, 1M, 1.00 mL | B(Br)(Br)Br | BBr3
solvent | water | O | H2O
product | 1-(4-Chloro-3-hydroxybenzyl)-4-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one | 6.00 mg, yield: 62% | ClC1=C(C=C(CN2C(N=C(N=C2)N2CCN(CC2)C2=CC=C(C=C2)F)=O)C=C1)O | C20H19ClFN5O2
